US05135838
Synthesis of 2-(3-nitrophenyl)-6-nitrobenzyl bromide
The procedure of Example 8 was used except that the starting material was 0.80 g of 2-(3-nitrophenyl)-6-nitrotoluene which was reacted with 0.49 g of bromine and 33 mg of benzoyl peroxide. In this way, 0.80 g (77% yield) of yellowish crystals were obtained.

reactant | 2-(3-nitrophenyl)-6-nitrotoluene | 0.80 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C(=CC=C1)[N+](=O)[O-])C | C13H10N2O4
reactant | bromine | 0.49 g | BrBr | Br2
catalyst | benzoyl peroxide | 33 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(3-nitrophenyl)-6-nitrobenzyl bromide | 0.80 g, 77% yield | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(CBr)C(=CC=C1)[N+](=O)[O-] | C13H9BrN2O4
